* C:\Users\ryanb\Documents\GitHub\test_supply\hardware\sims\supply.asc
XU1 v- v- N013 N013 N014 N014 v+ N017 N010 MP_01 MP_02 vlim vlim 0 v+ N011 N011 MP_03 v+ LT1970
R1 N014 N013 1
V1 v+ 0 10
V2 0 v- 10
V3 vlim 0 5
R2 vlim N011 1k
V4 P001 0 PULSE(0 1.5 10m 10u 10u 100m 200m)
C1 N015 0 10µ
I1 N015 0 PULSE(0 0 80m 100u 100u 50m 200m)
R3 N014 N017 10k
C2 N014 N017 100p
D4 N008 N007 1N914
C3 N010 0 20n
D1 N008 N010 1N914
D2 N007 N012 1N914
D3 N010 N012 1N914
XU2 N009 N007 v+ v- N007 LT1001
Q1 N003 N003 N001 0 2N3906
Q2 N005 N003 N002 0 2N3906
R4 v+ N002 1k
R5 v+ N001 1k
R6 N003 N004 20k
Q3 N019 N018 N022 0 2N3904
Q4 N018 N018 N021 0 2N3904
R7 N016 N018 20k
R8 N021 v- 1k
R9 N022 v- 1k
R10 N015 N014 1g
V6 N009 P001 PULSE(0 1.5 12m 10u 10u 100m 200m)
R11 lim+ N020 {rLow}
R12 N020 lim- {rHigh}
R13 lim+ N006 {rHigh}
R14 N006 lim- {rLow}
R15 N005 N008 1µ
R16 N012 N019 1µ
XU7 N006 N004 v+ v- N004 v+ LT1218
XU3 N003 lim+ v+ v- lim+ v+ LT1218
XU4 N018 lim- v+ v- lim- v+ LT1218
XU5 N020 N016 v+ v- N016 v+ LT1218
.model D D
.lib C:\Users\ryanb\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\ryanb\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 200m 0 10u
.step param rHigh list 100 200 50k 99.8k 99.9k
;.param rHigh 100
.param rLow 100k - rHigh
* Rail to rail op-amps
.lib LTC.lib
.lib LTC1.lib
.backanno
.end
